US04046898
1-(2,6-Dichlorophenyl)-2-nitropropylene (m.p. 49°-50° C., b.p. 90°-102° C./0.33 mm. Hg.)is prepared from nitroethane and 2,6-dichlorobenzaldehyde by a similar process to that described in the second and third parts of Example 4. This compound is reacted with dimethyl malonate and the product hydrogenated by a similar process to that described in the fourth and fifth parts of Example 4, and the 4-(2,6-dichlorophenyl)-3-methoxycarbonyl-5-methylpyrrolidin-2-one thus obtained is separated into two geometrical isomers thereof by repeated chromatography on a silica gel column, using a 2:1 v/v mixture of toluene and ethyl acetate as eluant. The two isomers have m.p. 157°-158° C. (first isomer) and 143°-144° C. (second isomer). These two esters are separately hydrolysed and decarboxylated by a similar process to that described in the sixth part of Example 4, and there are thus obtained a first isomer, m.p. 182°-184° C., and a second isomer, m.p. 173.5°-175° C., of 4-(2,6-dichlorophenyl)-5-methylpyrrolidin-2-one, the isomers differing by cis- and trans- relationship of the 4-(2,6-dichlorophenyl)- and 5-methyl-substituents.

reactant | 1-(2,6-Dichlorophenyl)-2-nitropropylene | ClC1=C(C(=CC=C1)Cl)C=C(C)[N+](=O)[O-] | C9H7Cl2NO2
reactant | nitroethane | [N+](=O)([O-])CC | C2H5NO2
reactant | 2,6-dichlorobenzaldehyde | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
product | 4-(2,6-dichlorophenyl)-3-methoxycarbonyl-5-methylpyrrolidin-2-one | ClC1=C(C(=CC=C1)Cl)C1C(C(NC1C)=O)C(=O)OC | C13H13Cl2NO3
